US05442063
85% Potassium hydroxide (6.12 g, 92.8 mmol) and tert-butyl alcohol (15 ml) were added to 2-(2,5-dimethylphenoxymethyl)-α-hydroxyiminobenzyl cyanide (E/Z=15/85)(1.30 g, 4.64 mmol). The mixture was heated under reflux for 5 hours. After completion of the reaction, the reaction mixture was neutralized with 6N hydrochloric acid, and water (100 ml) was added. The resulting mixture was extracted with ether (100 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were recrystallized from n-hexane/ethyl acetate to give 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyiminoacetamide (0.83 g, Yield: 60.0%, Z=at least 98%) as colorless crystals.

reactant | Potassium hydroxide | 92.8 mmol, 6.12 g | [OH-].[K+]
reactant | tert-butyl alcohol | 15 ml | C(C)(C)(C)O | C4H10O
reactant | 2-(2,5-dimethylphenoxymethyl)-α-hydroxyiminobenzyl cyanide | 4.64 mmol, 1.30 g | CC1=C(OCC2=C(C(=NO)C#N)C=CC=C2)C=C(C=C1)C | C17H16N2O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyiminoacetamide | 0.83 g, Yield: 60.0% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)N)=NO)C=C(C=C1)C | C17H18N2O3
